US07049445B2
(R)-2-[N′-Benzyl-N′-(2-hydroxyethyl)amino]-1-[3-(N-benzyl-N-methylsulfonylamino)phenyl]ethanol (273 mg; synthesized according to the process described in WO 01/04092) and triphenylphosphine (162 mg) were dissolved in dehydrated methylene chloride (8 mL) under an argon atmosphere, followed by stirring at −20° C. After adding N-bromosuccinimide (110 mg) at a stretch, the resulting mixture was stirred for 10 minutes. The reaction mixture was purified by silica gel column chromatography (5:1-3:1 hexane/ethyl acetate) to yield (R)-2-[N′-benzyl-N′-(2-bromoethyl)amino])-1-[3-(N-benzyl-N-methylsulfonylamino)phenyl]ethanol. This was immediately dissolved in acetonitrile (4 mL), to which the compound (116 mg; obtained in the above step E) and an aqueous 1 N sodium hydroxide solution (521 μL) were added. The resulting mixture was stirred at room temperature for 16 hours and the reaction mixture was then concentrated. The residue was purified by silica gel column chromatography (5:1-1:1 hexane/ethyl acetate) to yield the title compound (243 mg).

reactant | (R)-2-[N′-Benzyl-N′-(2-hydroxyethyl)amino]-1-[3-(N-benzyl-N-methylsulfonylamino)phenyl]ethanol | C(C1=CC=CC=C1)N(CCO)C[C@H](O)C1=CC(=CC=C1)N(S(=O)(=O)C)CC1=CC=CC=C1 | C25H30N2O4S
reactant | triphenylphosphine | 162 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-bromosuccinimide | 110 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | methylene chloride | 8 mL | C(Cl)Cl | CH2Cl2
product | 1-[3-(N-benzyl-N-methylsulfonylamino)phenyl]ethanol | C(C1=CC=CC=C1)N(S(=O)(=O)C)C=1C=C(C=CC1)C(C)O | C16H19NO3S
